US07807709B2
C. (3S,4S)-3-Formyl-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
To a well stirred mixture of (3S,4S)-3-hydroxymethyl-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (16.6 g, 39.8 mmol) and Dess-Martin periodinane (16.9 g, 39.8 mmol) in CH2Cl2 (110 mL), slowly wet CH2Cl2 (0.79 mL of water in 110 mL of CH2Cl2) is added. The clear solution becomes cloudy toward the end of wet CH2Cl2 addition and is further stirred overnight. Then concentrated to a few mL of solvent by rotary evaporation and taken up in Et2O. A solution of 1:1 10% Na2S2O3 saturated aqueous NaHCO3 is added. The layers are separated and the organic extract is washed successively with H2O and brine. The aqueous washings are back-extracted with Et2O, and this organic layer is washed with H2O and brine. The combined organic layers are dried with Na2SO4, filtered and concentrated. The crude mixture is used in the next step without further purification. TLC, Rf (CH2Cl2/MeOH 9:1)=0.48. MS (LC-MS): 437.0 [M+Na]+.

reactant | (3S,4S)-3-hydroxymethyl-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 39.8 mmol, 16.6 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)OCC[Si](C)(C)C)C(C)C)CO | C20H40N2O5Si
reactant | Dess-Martin periodinane | 39.8 mmol, 16.9 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.79 mL | C(Cl)Cl | CH2Cl2
product | (3S,4S)-3-Formyl-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)OCC[Si](C)(C)C)C(C)C)C=O | C20H38N2O5Si
